US09388173B2
Step 4: 1-(Azetidin-3-yl)-6-bromo-1H-benzo[d]imidazole
To a solution of tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-1-yl)azetidine-1-carboxylate (crude) in DCM (9 mL) was added TFA (3 mL). After stirred for 2 h, the solution was concentrated to give desired product and used directly in the next step.

reactant | tert-butyl 3-(6-bromo-1H-benzo[d]imidazol-1-yl)azetidine-1-carboxylate | BrC=1C=CC2=C(N(C=N2)C2CN(C2)C(=O)OC(C)(C)C)C1 | C15H18BrN3O2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | 1-(Azetidin-3-yl)-6-bromo-1H-benzo[d]imidazole | N1CC(C1)N1C=NC2=C1C=C(C=C2)Br | C10H10BrN3
